US07473698B2
Into a solution of tert-butyl-4-[3-({3-[4-(3,4-difluorophenoxy)phenyl]propanoyl}amino)-4-fluorophenyl]-1-piperidinecarboxylate (85.0 mg, 0.150 mmol) in CH2Cl2 (2.0 mL) was added trifluoroacetic acid (170 mg, 1.50 mmol) at room temperature. The reaction mixture was stirred for 10 min and concentrated in vacuo. The residue was dissolved in CHCl3/i-PrOH (3:1, 10 mL) and was basified to pH 11 with 5% KOH solution. The organic layer was extracted and the aqueous layer was extracted with CHCl3/i-PrOH (3:1, 3×10 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford 3-[4-(3,4-difluorophenoxy)phenyl]-N-[2-fluoro-5-(4-piperidinyl)phenyl]propanamide (65.0 mg, 92%): 1H NMR (400 MHz, CD3OD) δ 8.27-8.12 (m, 1H), 7.39 (s, 1H), 7.33-7.17 (m, 2H), 7.17-7.06 (m, 1H), 7.06-6.97 (m, 1H), 6.97-6.87 (m, 3H), 6.86-6.74 (m, 1H), 6.74-6.62 (m, 1H), 6.15-5.63 (br, 1H), 3.55-3.31 (m, 2H), 3.15-2.97 (m, 2H), 2.97-2.79 (m, 2H), 2.79-2.59 (m, 3H), 2.05-1.79 (m, 4H); ESMS m/e: 455.2 (M+H)+.

reactant | tert-butyl-4-[3-({3-[4-(3,4-difluorophenoxy)phenyl]propanoyl}amino)-4-fluorophenyl]-1-piperidinecarboxylate | 0.150 mmol, 85.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)F)NC(CCC1=CC=C(C=C1)OC1=CC(=C(C=C1)F)F)=O | C31H33F3N2O4
reactant | trifluoroacetic acid | 1.50 mmol, 170 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(3,4-difluorophenoxy)phenyl]-N-[2-fluoro-5-(4-piperidinyl)phenyl]propanamide | 65.0 mg, 92% | FC=1C=C(OC2=CC=C(C=C2)CCC(=O)NC2=C(C=CC(=C2)C2CCNCC2)F)C=CC1F | C26H25F3N2O2
